US07160875B2
(2RS)-2-Methyl-N-[(S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N′-(3,3,4,4,4-pentafluoro-butyl)-malonamide
In an analogous manner to that described in Example 20 d), the condensation of (S)-7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one and (2RS)-2-methyl-N-(3,3,4,4,4-pentafluoro-butyl)-malonamic acid yielded the title compound as a white solid;

reactant | (S)-7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | (2RS)-2-methyl-N-(3,3,4,4,4-pentafluoro-butyl)-malonamic acid | CC(C(=O)O)C(=O)NCCC(C(F)(F)F)(F)F | C8H10F5NO3
product | (2RS)-2-Methyl-N-[(S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N′-(3,3,4,4,4-pentafluoro-butyl)-malonamide | CC(C(=O)N[C@H]1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C(=O)NCCC(C(F)(F)F)(F)F | C23H22F5N3O3
